US07132443B2
A. Methyl (2R)-2-amino-3-mercapto-3-methylbutanoate
To a methanol (18 mL, 1.14 M) solution containing L-penicillamine (3.0 g, 20.11 mmol, 1.0 eq) was added thionyl chloride (1.5 mL, 20.7 mmol, 1.03 eq). The resulting mixture was heated to reflux for 18 hr and the solvent removed in vacuo. The resulting clear semi-solid was used in the next step without further purification. Isolated 3.28 g (20.1 mmol, 100% yield).

reactant | L-penicillamine | 20.11 mmol, 3.0 g, 1.0 eq | N[C@@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | thionyl chloride | 20.7 mmol, 1.5 mL, 1.03 eq | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 1.14 M, 18 mL | CO | CH4O
product | Methyl (2R)-2-amino-3-mercapto-3-methylbutanoate | 100% yield | N[C@H](C(=O)OC)C(C)(C)S | C6H13NO2S
